US04730003
2-(2-Carboxyethyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 1, a solution of 3.82 g. 5,6-diamino-3,3-dimethylindolin-2-one and 2.36 g. succinic acid in 10 ml. 4N hydrochloric acid is heated for 4 hours at 135° C. (bath temperature). The reaction mixture is then evaporated in a vacuum until a thick slurry has formed. 10 ml. water are added thereto and the pH is adjusted to 10 with concentrated aqueous ammonia solution. Insoluble material is filtered off with suction and washed with water and the filtrate is treated with charcoal, filtered and the filtrate evaporated in a vacuum. The evaporation residue is taken up in 10 ml. water and acidified with glacial acetic acid, the title compound thereby precipitating out. After drying for 4 hours in a vacuum at 60° C., there are obtained 2.2 g. of desired compound with a melting point of 130°-135° C. (foaming). This compound contains 1.6 mole of water per mole of compound.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2-(2-Carboxyethyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(=O)(O)CCC=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C14H15N3O3
